US04625047
Preparation of [2,3-dichloro-4-(6-ethyl-3-(hydroxyimino)-1-cyclohexen-1-yl)phenoxy]acetic acid hemitoluene solvate
A mixture of [2,3-dichloro-4-(6-ethyl-3-oxo-1-cyclohexen-1-yl)phenoxy]acetic acid (3.4 g, 0.01 mole), hydroxylamine hydrochloride (2.1 g, 0.03 mole) and pyridine (40 ml) were heated at 95° C. for 40 hours, poured into ice-water and hydrochloric acid, extracted with ether, washed with water, dried over magnesium sulfate and evaporated in vacuo. After recrystallization from toluene (120 ml) the [2,3-dichloro-4-(6-ethyl-3-(hydroxyimino)-1-cyclohexen-1-yl)-phenoxy]acetic acid hemitoluene solvate melted at 88°-90° C.

reactant | [2,3-dichloro-4-(6-ethyl-3-oxo-1-cyclohexen-1-yl)phenoxy]acetic acid | 0.01 mole, 3.4 g | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C1=CC(CCC1CC)=O | C16H16Cl2O4
reactant | hydroxylamine hydrochloride | 0.03 mole, 2.1 g | Cl.NO
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | [2,3-dichloro-4-(6-ethyl-3-(hydroxyimino)-1-cyclohexen-1-yl)phenoxy]acetic acid | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C1=CC(CCC1CC)=NO | C16H17Cl2NO4
